US07790707B2
Methyl 4-(3-(4-tert-butylphenyl)-2-oxoimidazolidin-1-yl)benzoate (Step 3 in Scheme 1)
Methyl 4-(2-oxoimidazolidin-1-yl)benzoate (220 mg, 1.0 mmole) was mixed with iodo-1-tert-butyl-4-iodobenzene (260 mg, 1.0 mmol), CuI (38 mg, 0.2 mmol), K3PO4 (426 mg, 2 mmol), N,N′-dimethyl ethylenediamine (17 mg, 0.2 mmol) and 1,4-dioxane (5 ml). The mixture was heated at 110° C. with stirring for 12 hours, and the solvent was removed in vacuum. The residue was suspended in dichloromethane and purified on ISCO system (5% methanol in dichloromethane) to give a pure product as a white crystalline (275 mg, 78%): 1H NMR (400 MHz, CDCl3) δ 8.05 (dd, 2H), 7.70 (dd, 2H), 7.36 (dd, 2H), 7.20 (dd, 2H), 4.02 (s, 4H), 3.90 (s, 3H), 1.30 (s, 9H). MS (ESI) m/z: Calculated: 352.18; Observed: 353.10 (M++1).

reactant | Methyl 4-(2-oxoimidazolidin-1-yl)benzoate | 1.0 mmole, 220 mg | O=C1N(CCN1)C1=CC=C(C(=O)OC)C=C1 | C11H12N2O3
reactant | iodo-1-tert-butyl-4-iodobenzene | 1.0 mmol, 260 mg | IC1=C(C=CC(=C1)I)C(C)(C)C | C10H12I2
reactant | K3PO4 | 2 mmol, 426 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethyl ethylenediamine | 0.2 mmol, 17 mg | CNCCNC | C4H12N2
catalyst | CuI | 0.2 mmol, 38 mg | [Cu]I
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | Methyl 4-(3-(4-tert-butylphenyl)-2-oxoimidazolidin-1-yl)benzoate | C(C)(C)(C)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C(=O)OC)C=C1)=O | C21H24N2O3
